Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Cleocin / Erythromycin Base / alendronate sodium
 
Attending: ___.
 
Chief Complaint:
shortness of breath, fatigue
 
Major Surgical or Invasive Procedure:
___ - Pericardiocentesis 

 
History of Present Illness:
___ female with past medical history significant for stage 
IIIa lung adenocarcinoma (LLL) s/p neoadjuvant chemoradiation 
and left lower lobectomy ___, hypertension, hyperlipidemia, 
and pericardial effusion. She was recently discharged from the 
CCU following scheduled TAVR on c/b completed heart block and 
PEA arrest, further c/b pericardial effusion without tamponade. 
She underwent PPM on ___. She presents to the ED after repeat 
TTE reveals increasing effusion with signs of frank tamponade.

In regards to her recent hospitalization, she was admitted 
___ for scheduled TAVR. Briefly, her course was c/b CHB 
requiring temp wire s/p TAVR. Shortly after placement she went 
into PEA arrest for which she received 1 minute of CPR. This was 
___ dislodged pacer wire. EP then re-placed the temp wire. She 
was also noted to have a pericardial effusion with tamponade 
physiology (see below). A PPM was placed on ___. 
Additionally, she was started on clopidogrel (already on 
aspirin) for planned three month duration after which she would 
remain on lifelong ASA.

In regards to her pericardial effusion, patient was noted to 
have small pericardial effusion on TTE (___) prior to TAVR 
which on repeat TTE on ___ was noted to be increased in size 
(moderate circumferential) without frank tamponade. She 
completed pericardiocentesis on ___ with removal of 170 cc of 
fluid that was negative for malignant cells (c/w reactive 
cells). Surveillance TTE on ___ showed rapid re-accumulation of 
pericardial fluid, which was described as small to moderate with 
echo evidence for increased pericardial pressure and tamponade 
physiology. While awaiting cytology results she was monitored 
hemodynamically with frequent pulsus paradoxus check and 
surveillance TTEs. She did not undergo repeat pericardiocentesis 
as the pericardial effusion remained stable without any clinical 
evidence of tamponade or hemodynamic compromise. She was planned 
for surveillance TTE the week after discharge to monitor for 
stability.

She presented today to the outpatient echo lab for follow up of 
her pericardial effusion which was moderate before. The images 
today show moderate to severe pericardial effusion with clear 
signs of tamponade and mild RA pressure elevation. A pulsus in 
the lab was 8 mm Hg. She reported 2 days of increasing shortness 
of breath, fatigue, and DOE.

In the ED, patient endorses some lightheadedness. She also 
endorses some chest pain, which she states is stable from her 
recent CPR.

In the ED,  
 - Initial vitals were:  T98.0 P90 BP 149/68 RR18 O298% RA 
 - Exam notable for:  she is comfortable appearing, without 
tachypnea. Pulsus of 16 mmHg. No friction rub
 - Labs notable for: notable for mild anemia, WBC 13.1, 
unremarkable chemistry panel, lactate 1.7, INR 1.2, Trop 0.23, 
proBNP ___. 
 - Studies notable for:  TTE: 3 mm anterior effusion, early RV 
systolic collapse, collapsible IVC
 - Patient was given:  started on LR @ 100/hr

On arrival to the CCU, patient endorses the hx above and states 
that she hasn't noticed anything specifically different about 
her breathing in the previous days, but reports general malaise. 
She states that she feels very dehydrated. Notes chest 
discomfort, related to recent CPR. Denies n/v/d. Denies fevers 
chills.
 
Past Medical History:
Cardiac Hx:
-TAVR ___
-ppm ___
-pericardial effusion s/p pericardiocentesis ___
HYPERLIPIDEMIA statin stopped because of thoracic pain           
            
HYPERTENSION                                                    
TOBACCO ABUSE                                                   
Other PMxh
BASAL CELL CARCINOMA                                            
MICROSCOPIC HEMATURIA                                           
neg ___  ___                                             
RIGHT ANKLE FRACTURE                                            
PANCREATIC INSUFFICIENCY                                        
LUNG CANCER                                                     
OSTEOPOROSIS                                                    
 T7 and T9 compression deformities appear new since ___.
OMPRESSION FRACTURES T7-T9                                     
H/O SKIN CANCERS    
 
Social History:
___
Family History:
FAMILY HISTORY:
Mom with diabetes and pacemaker. 
Father with triple bypass, basal cell skin cancer, and diabetes.
Sister had lupus. 

 
Physical Exam:
ADMISSION EXAM:
===============
VS: T: 98.7 BP 101/78 P 80 RR 24 PO2: 94%
GENERAL: NAD. Lying flat in bed. Oriented x3. Mood, affect 
appropriate.  
HEENT: ATNC. Sclera anicteric. PERRL. EOMI.  
NECK: Supple. JVP difficult to evaluate ___ prominent EJ. JVP 
atleast to the angle of the mandible at 30 degrees.  
CARDIAC: PMI displaced leftward. RRR. Systolic ejection murmur 
best appreciated at LUSB. Radiation to the axilla.   
LUNGS: Kyphosis. L-sided flank scar post surgical. Decreased 
lung sounds at L-base. Inspiratory wheezes.  
ABDOMEN: Soft, non-tender, non-distended. No palpable 
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis. Trace 
___ edema.  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
NEURO:  AOx3. 9 quarters in $2.25. EOMI. Speech intact to 
conversation. Moving all extremities with purpose.

DISCHARGE EXAM:
===============
VS: 24 HR Data (last updated ___ @ 418)
    Temp: 97.8 (Tm 98.3), BP: 145/81 (122-149/64-81), HR: 80
(80-96), RR: 18 (___), O2 sat: 98% (95-98), O2 delivery: RA  
GENERAL: In NAD.
HEENT: PERRL, EOMI, MMM. 
NECK: No JVD. 
CARDIAC: RRR. Systolic ejection murmur radiating to the 
carotids.
Loud S2. No friction rub. Drain site covered in gauze, no signs
of bleeding.
LUNGS: Kyphosis. L-sided flank scar post surgical. Decreased 
lung
sounds at L-base otherwise CTAB.  
ABDOMEN: Soft, diffusely tender to palpation, non distended.   
EXTREMITIES: Warm, well perfused. No ___ edema.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:17AM BLOOD WBC-13.1* RBC-3.44* Hgb-10.0* Hct-31.5* 
MCV-92 MCH-29.1 MCHC-31.7* RDW-15.8* RDWSD-51.5* Plt ___
___ 11:17AM BLOOD Neuts-86.9* Lymphs-4.3* Monos-7.4 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-11.33* AbsLymp-0.56* 
AbsMono-0.97* AbsEos-0.07 AbsBaso-0.03
___ 11:17AM BLOOD ___ PTT-28.2 ___
___ 11:17AM BLOOD Plt ___
___ 11:17AM BLOOD Glucose-106* UreaN-24* Creat-0.6 Na-144 
K-4.0 Cl-105 HCO3-25 AnGap-14
___ 11:17AM BLOOD cTropnT-0.23* proBNP-___*
___ 11:17AM BLOOD Calcium-10.1 Phos-2.5* Mg-2.2
___ 11:21AM BLOOD Lactate-1.___ w/ PMH stage IIIa LLL lung adenocarcinoma (s/p neoadjuvant 
chemoradiation and left lower lobectomy ___, HTN, HLD, 
recent admission to the CCU s/p TAVR c/b CHB, PEA arrest now w/ 
PPM. Course further c/b pericardial effusion without tamponade. 
She was admitted to the CCU for concern for tamponade physiology 
and underwent pericardiocentesis w/ temporary drain placement. 

#CORONARIES:70% stenosis of proximal LAD (___)
#PUMP: 55% 
#RHYTHM: NSR

ACUTE ISSUES: 
============= 
#Recurrent pericardial effusion
#C/f tamponade Physiology
Small pericardial effusion discovered on TTE (___) prior to 
TAVR which on repeat TTE on ___ was noted to be increased in 
size (moderate circumferential) without frank tamponade. 
Pericardiocentesis ___ w/ reactive cells. Surveillance TTE on 
___ showed rapid re-accumulation of pericardial fluid with
evidence of tamponade physiology. Did not have repeat 
pericardiocentesis given lack of pulsus and lack of hemodynamic 
compromise. She presented on ___ for surveillance echo showing 
c/f frank tamponade physiology with increased size of effusion. 
Of note, IVC was collapsible on echo. Pulsus was reported at 
16mmhg. She had a pericardiocentesis on ___ with an opening 
pressure of 10mmHg draining 320 cc of serosanguineous fluid. She 
was subsequently started on colchicine and ibuprofen, however 
colchicine had to be discontinued due to diarrhea. Follow up 
echo showed c/f loculation at the time the pericardial drain had 
decreased output. The drain was subsequently removed. Repeat 
echo ___ showed small effusion without loculation. She was 
evaluated by Thoracic Surgery for a pericardial window but given 
the smaller effusion, they didn't think the procedure was 
warranted. However, they felt that if she reaccumulated again in 
the future she would probably benefit from surgery. she was safe 
for discharge with repeat TTE in one week in clinic. 

#Aortic Stenosis s/p TAVR c/b 
#CHB and PEA arrest 
#PPM placement 
Had scheduled TAVR procedure on ___. Following TAVR placement 
noted to have CHB requiring temp wire, and initially went into 
PEA arrest s/p placement. A PPM was placed on ___. She was 
continued on aspirin and clopidogrel. The structural team was 
made aware of her hospitalization and will arrange appropriate 
follow up.

CHRONIC ISSUES: 
================ 
#CAD
70% stenosis of proximal LAD found during last cath (___). 
Continued home aspirin

#HLD
Continued home atorvastatin. 

#HTN 
Initially held home amlodipine, but restarted prior to 
discharge. 

#Hx stage IIIa lung adenocarcinoma (LLL) s/p neoadjuvant
chemoradiation and left lower lobectomy ___
#Hx of lung collapse ___ mucous plugging
Noted on previous admission s/p intubation. She had a CT Chest 
___ which showed no evidence of lung cancer recurrence and 
stable left pleural effusion.

#GERD
Continued home omeprazole

TRANSITIONAL ISSUES
====================
[] If she reaccumulates pericardial fluid, Thoracic Surgery 
would consider performing a pericardial window
[] CT Chest ___ identified known unchanged 6 mm thyroid nodule 
in the posterior aspect of the right lobe of thyroid. 
Correlation with nonemergent thyroid ultrasound may performed if 
clinically indicated. 

CORE MEASURES: 
============== 
#CODE: Full (confirmed) 
#CONTACT/HCP: ___ Relationship: Husband Phone 
number: ___ Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - First 
Line 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
6. Clopidogrel 75 mg PO DAILY 
7. GuaiFENesin ER 1200 mg PO Q12H 
8. Lidocaine 5% Patch 1 PTCH TD QPM chest tenderness 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. TraMADol 25 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth Daily Disp #*90 Tablet 
Refills:*3 
2.  Ibuprofen 600 mg PO TID 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Three times a day Disp 
#*90 Tablet Refills:*3 
3.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth Daily Disp #*90 
Capsule Refills:*3 
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
5.  amLODIPine 2.5 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  Clopidogrel 75 mg PO DAILY  
9.  GuaiFENesin ER 1200 mg PO Q12H  
10.  Lidocaine 5% Patch 1 PTCH TD QPM chest tenderness  
11.  Metoprolol Succinate XL 25 mg PO DAILY  
12.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - First 
Line  
13.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Pericardial effusion

SECONDARY DIAGNOSIS
====================
Aortic stenosis
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

WHY WERE YOU ADMITTED TO THE HOSPITAL?  
-  You were admitted to the hospital when you developed 
shortness of breath and were found to have increase fluid in the 
lining around the heart. 
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
-  You underwent a procedure to remove the fluid from the lining 
around the heart. You had a temporary drain placed to help 
remove the fluid which was taken out before you left the 
hospital.
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  
- Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___!  

We wish you all the best!  
 - Your ___ Care Team  
 
Followup Instructions:
___